US04695625
50 Grams of desonide (16α-hydroxyprednisolone-16,17-acetonide) and immediately thereafter 12,5 ml of butyraldehyde were added to 500 ml of a 70% hydrofluoric acid solution, at -5° C. The mixture was stirred at 0° C. for one hour and then poured into 5 liters of demineralized water at 0° C. The precipitate was filtered, washed to neutrality with water and dried under vacuum to give 51 g of pure budesonide with an A/B epimer ratio of 9/91.

reactant | desonide | C[C@]12C[C@@H]([C@H]3[C@H]([C@@H]1C[C@@H]4[C@]2(OC(O4)(C)C)C(=O)CO)CCC5=CC(=O)C=C[C@]35C)O | C24H32O6
reactant | butyraldehyde | 12,5 ml | C(CCC)=O | C4H8O
reactant | hydrofluoric acid | F | FH
solvent | water | 5 liters | O | H2O
product | budesonide | 51 g | CCCC1O[C@@H]2C[C@H]3[C@@H]4CCC5=CC(=O)C=C[C@@]5([C@H]4[C@H](C[C@@]3([C@@]2(O1)C(=O)CO)C)O)C | C25H34O6
